US06231784B1
Nonyl anisole was prepared from nonylphenol, available from Jefferson Chemicals, and methyl iodide under typical Williamson ether synthesis conditions. Nonylphenol (1.0 mole), methyl iodide (1.2 moles), potassium carbonate (1.25 moles) and acetone were placed in a round bottom flask and heated to reflux. After refluxing overnight, the reaction mixture was poured into water and extracted with ether. The ether extract was washed with saturated sodium chloride solution, dried and evaporated to an oil which was then purified by vacuum distillation. The product was analyzed as nonyl anisole by IR and NMR spectroscopy.

reactant | nonylphenol | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | methyl iodide | CI | CH3I
reactant | ether | CCOCC | C4H10O
reactant | Nonylphenol | 1.0 mole | CCCCCCCCCC=1C=CC(=CC1)O | C15H24O
reactant | methyl iodide | 1.2 moles | CI | CH3I
reactant | potassium carbonate | 1.25 moles | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | Nonyl anisole | C(CCCCCCCC)C1=C(C=CC=C1)OC | C16H26O
